datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[C:7]([S:8][H:12])([H:9])([H:10])[H:11]>>[C:0](#[C:1][C:2](=[C:3]([H:5])[H:6])[H:12])[H:4].[C:7]([S:8])([H:9])([H:10])[H:11],-2.5104
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8](=[C:9]([H:15])[H:16])[C:10](=[C:11]([H:18])[H:19])[H:17])[H:14])([H:12])[H:13]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:9]([C:8]([C:7](=[C:6]([H:12])[H:13])[H:14])[C:10](=[C:11]([H:18])[H:19])[H:17])([H:15])[H:16])[H:3],20.5853
[O:0]=[N+:1][O-:2].[O:3]=[N+:4][O-:5]>>[O:0]=[N+:1]([O-:2])[N+:4](=[O:3])[O-:5],0.0
[C:0](#[C:1][C:2](=[C:3]([C:4]#[C:5][H:9])[H:8])[H:7])[H:6].[O:10][H:11]>>[C:0](#[C:1][C:2]=[C:3]([C:4]#[C:5][H:9])[H:8])[H:6].[H:7][O:10][H:11],1.79912
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[H:17]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:6])[H:7].[H:5][H:17],26.9868
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[H:9].[C:19]([c:20]1[c:21]([H:28])[c:22]([H:29])[c:23]([H:30])[c:24]([H:31])[c:25]1[H:32])([H:26])[H:27]>>[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[C:19]([c:20]1[c:21]([H:28])[c:22]([H:29])[c:23]([H:30])[c:24]([H:31])[c:25]1[H:32])([H:26])[H:27])[H:9],31.1708
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[S:6][S:7][H:8]>>[C:0]([S:1])([H:2])([H:3])[H:4].[H:5][S:6][S:7][H:8],67.3206
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[C:11]([C:12]([C:13](=[S:14])[H:19])[H:18])([H:15])([H:16])[H:17]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:3])([H:4])[H:5].[H:6][C:12]([C:11]([H:15])([H:16])[H:17])([C:13](=[S:14])[H:19])[H:18],90.3744
[C:0]([C:1]([C:2]([C:3](=[O:4])[H:12])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[O:13][O:14][H:15]>>[C:0]([C:1]([C:2]([C:3](=[O:4])[H:12])([H:10])[H:11])[H:9])([H:5])([H:6])[H:7].[H:8][O:13][O:14][H:15],58.19944
[C:0]1([H:7])[C:1]([H:8])=[C:2]([H:9])[C:3]([H:10])=[C:4]([H:11])[C:5]([H:12])([H:13])[C:6]1([H:14])[H:15]>>[C:0]([C:1](=[C:2]([C:3](=[C:4]([C:5]([H:12])[H:13])[H:11])[H:10])[H:9])[H:8])(=[C:6]([H:14])[H:15])[H:7],154.808
[C:0]([C:1]([O:2][H:7])[H:6])([H:3])([H:4])[H:5]>>[C:0]([C:1]([O:2][H:7])([H:3])[H:6])([H:4])[H:5],188.28
[C:0](#[C:1][C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([C:5]([C:6](=[C:7]([C:8]([C:9]([H:20])([H:21])[H:22])[H:19])[H:18])[H:17])([H:15])[H:16])[H:14])[H:10]>>[C:0](#[C:1][C:2]([C:3]([H:11])([H:12])[H:13])[C:4]1([H:14])[C:5]([H:15])([H:16])[C:6]([H:17])=[C:7]([H:18])[C:8]1([C:9]([H:20])([H:21])[H:22])[H:19])[H:10],79.6634
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[S:11]([C:12]([c:13]1[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]1[H:25])[H:20])[H:19]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:3])([H:4])[H:5].[H:6][C:12]([S:11][H:19])([c:13]1[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]1[H:25])[H:20],69.036
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:15])([H:16])[H:17])[C:5]([C:6]([C:7]([C:8]([C:9]([H:24])([H:25])[H:26])[C:10]([H:27])([H:28])[H:29])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])[H:14])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1([H:14])[C:3]([C:4]([H:15])([H:16])[H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]([H:22])([H:23])[C:8]1([C:9]([H:24])([H:25])[H:26])[C:10]([H:27])([H:28])[H:29])[H:13])([H:11])[H:12],43.8902
[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:13])[H:12])([H:9])([H:10])[H:11].[C:19]([C:20]([C:21]([H:26])([H:27])[H:28])[H:25])([H:22])([H:23])[H:24]>>[C:0]([C:1]([C:2]([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:13])[C:20]([C:19]([H:22])([H:23])[H:24])([C:21]([H:26])([H:27])[H:28])[H:25])[H:12])([H:9])([H:10])[H:11],27.0286
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:4])([H:5])[H:6].[C:14]([C:15]([O:16][O:17])([H:21])[H:22])([H:18])([H:19])[H:20]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])[H:8])([H:4])([H:5])[H:6].[H:7][O:17][O:16][C:15]([C:14]([H:18])([H:19])[H:20])([H:21])[H:22],57.40448
[C:0]([C:1]([C:2]([C:3](=[O:4])[H:14])([C:5]([O:6][O:7][H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([C:3](=[O:4])[H:14])([C:5]([O:6])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[O:7][H:17],175.728
[C:5](=[S:6])[H:7].[S:0]=[C:1]([S:2][H:4])[H:3]>>[H:3][C:5](=[S:6])[H:7].[S:0]=[C:1][S:2][H:4],38.0744
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9](=[C:10]([H:12])[H:13])[H:11]>>[C:0](=[C:1][C:2]([H:6])([H:7])[H:8])([H:3])[H:4].[H:5][C:9](=[C:10]([H:12])[H:13])[H:11],40.4593
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([O:3][O:4][H:14])[C:5]([C:6]([H:16])([H:17])[H:18])([O:7][O:8][H:19])[H:15])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([C:2]([H:11])([H:12])[H:13])([C:5]([C:6]([H:16])([H:17])[H:18])([O:7][O:8][H:19])[H:15])[O:3]1.[O:4][H:14],40.1664
